US07842685B2
To a solution of 2-(1-tert-butoxycarbonyl-azetidin-3-yl)-malonic acid diethyl ester (3 g, 0.0952 mol) in 95 mL toluene was added (2.514 g, 0.0952 mol) of 18-crown-6. A solution of sodium hydroxide (0.1047 mol, 1.1 M) in ethanol was added dropwise. The reaction mixture was stirred at 25° C. for 5 h and then heated to reflux overnight. The reaction mixture was cooled, concentrated in vacuo, and partitioned between ethyl acetate and water. The organic layer was dried over sodium sulphate, solvent was evaporated off, and the residue purified by column chromatography (neutral alumina) using ethyl acetate/hexanes as eluent to give 3-ethoxycarbonyl-methyl-azetidine-1-carboxylic acid tert-butyl ester.

reactant | 2-(1-tert-butoxycarbonyl-azetidin-3-yl)-malonic acid diethyl ester | 0.0952 mol, 3 g | C(C)OC(C(C(=O)OCC)C1CN(C1)C(=O)OC(C)(C)C)=O | C15H25NO6
reactant | 18-crown-6 | 0.0952 mol, 2.514 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium hydroxide | 0.1047 mol, 1.1 M | [OH-].[Na+]
solvent | toluene | 95 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | 3-ethoxycarbonyl-methyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C(C1)C(=O)OCC)C | C12H21NO4
